US07307073B2
To a solution of (S)-7-Bromo-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]-benzoxazepine-5-one (5 g; 17.76 mmol), prepared as described in Example 3J, in dimethylsulfoxide (80 ml) was added palladium acetate (225 mg; 1 mmol), 1,3-bis-(diphenylphosphino)propane (413 mg; 1 mmol), triethylamine (5 ml; 36 mmol) and methanol (4 ml). After stirring under argon until all solids had dissolved the reaction vessel was purged several times with carbon monoxide and placed under an atmosphere of carbon monoxide (balloon). The mixture was then heated to 100° C. and stirred overnight. Further portions of palladium acetate (0.50 mmol) and 1,3-bis-(diphenylphosphino)propane (0.50 mmol) were added and the mixture stirred at 100° C. for a further 6 h. After cooling water (200 ml) was added and the aqueous solution was extracted with three 75 ml portions of ethyl acetate. The combined extracts were dried (Na2SO4) and solvent evaporated under reduced pressure. The resulting brown oil was purified by column chromatography eluting with ethyl acetate. Further purification by recrystallisation from diethyl ether gave methyl (S)-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one-7-carboxylate (3.13 g) as a white crystalline solid.

reactant | (S)-7-Bromo-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]-benzoxazepine-5-one | 17.76 mmol, 5 g | BrC=1C=CC2=C(C(N3[C@H](CO2)CCC3)=O)C1 | C12H12BrNO2
reactant | triethylamine | 36 mmol, 5 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 4 ml | CO | CH4O
reactant | water | 200 ml | O | H2O
reactant | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
catalyst | palladium acetate | 1 mmol, 225 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.50 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis-(diphenylphosphino)propane | 1 mmol, 413 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
catalyst | 1,3-bis-(diphenylphosphino)propane | 0.50 mmol | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | methyl (S)-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one-7-carboxylate | 3.13 g | C1CCN2[C@@H]1COC1=C(C2=O)C=C(C=C1)C(=O)OC | C14H15NO4
